US04628059
Boron tribromide (25.6 ml, 0.0408 mole) (40% BBr3 in methylene chloride) was added dropwise over 10 minutes to a suspension of 4-(3',5'-difluoro-4'-methoxybenzyl)-1,2,4-triazole-3-thiol, prepared as in Example 4, (3.3 g) in 50 ml methylene chloride and stirred overnight at 25° C. The reaction mixture was poured into a mixture of ice-ethyl acetate, separated, and extracted two additional times with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried with sodium sulfate, filtered, and evaporated to an oil. The oil was dissolved in methylene chloride:methanol (90:10) and purified on a flash silica column eluted with methylene chloride:methanol (90:10) to produce a solid which was recrystallized from ethanol-hexane to yield 0.8 g (23% ) of 4-(3',5'-difluoro-4'-hydroxybenzyl)-1,2,4-triazole-3-thiol, m.p.: 184°-185° C.

reactant | Boron tribromide | 0.0408 mole, 25.6 ml | B(Br)(Br)Br | BBr3
reactant | 4-(3',5'-difluoro-4'-methoxybenzyl)-1,2,4-triazole-3-thiol | FC=1C=C(CN2C(=NN=C2)S)C=C(C1OC)F | C10H9F2N3OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(3',5'-difluoro-4'-hydroxybenzyl)-1,2,4-triazole-3-thiol | 0.8 g, 23% | FC=1C=C(CN2C(=NN=C2)S)C=C(C1O)F | C9H7F2N3OS
